US07598397B2
Synthesis of 4-Iodo-1-methyl-1H-indazol-3-ylamine, I-216.
To a 330 mL pressure vessel equipped with a magnetic stir bar was added 2-fluoro-6-iodobenzonitrile (4.5 g, 18.2 mmol), N,N-dimethylacetamide (45 mL), and methylhydrazine (1.2 mL 23.7 mmol). The vessel was flushed with N2 gas, sealed and heated at 87° C. overnight and at 120° C. for 5 h. The reaction mixture was cooled, diluted with EtOAc (300 mL, and washed with water. The aqueous layer was extracted and the combined EtOAc extracts were washed with water (3×150 mL), brine, dried (Na2SO4), filtered and concentrated to a brown solid. The solid was triturated with EtOAc/hexanes (1:1, 10 mL), filtered, washed with EtOAc/hexanes (1:1) and dried to give 4.04 g (81%) of I-216 as a beige solid. 1H NMR (400 MHz, DMSO-d6)

reactant | 2-fluoro-6-iodobenzonitrile | 18.2 mmol, 4.5 g | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | methylhydrazine | 23.7 mmol, 1.2 mL | CNN | CH6N2
reactant | N,N-dimethylacetamide | 45 mL | CN(C(C)=O)C | C4H9NO
product | 4-Iodo-1-methyl-1H-indazol-3-ylamine | IC1=C2C(=NN(C2=CC=C1)C)N | C8H8IN3
